US08536179B2
1-Isopropyl-3-methyl-6-(methylsulfonyl)-1H-indole-4-carboxylic acid
To a 30-mL microwave tube were added methyl 6-bromo-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate (490 mg, 1.580 mmol), methanesulfinic acid (212 mg, 2.054 mmol), DMSO (7 mL), N,N′-dimethyl-1,2-ethanediamine (18.10 mg, 0.205 mmol), and the mixture was degassed for 5 min by bubbling N2. Copper(I) trifluoromethanesulfonate benzene complex (63.6 mg, 0.126 mmol) was added and the tube was sealed. The mixture was heated at 165° C. overnight with stirring. The mixture was allowed to cool, filtered and purified using reverse-phase HPLC (Gemini 5u C18(2) 100A, AXIA; 30×100 mm 5 micron; 30 mL/min, 30% ACN/H2O, 0.1% formic acid to 60% ACN/H2O, 0.1% formic acid) to give the title compound (118 mg, 25%) as a white solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.47 (d, J=8.00 Hz, 6H), 2.30-2.41 (m, 3H), 4.94 (quin, J=6.63 Hz, 1H), 7.80 (s, 1H), 7.88 (d, J=1.77 Hz, 1H), 8.24 (d, J=1.52 Hz, 1H), 13.17 (br. s., 1H). MS: (M+H)+296.3.

reactant | methyl 6-bromo-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylate | 1.580 mmol, 490 mg | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)OC | C14H16BrNO2
reactant | methanesulfinic acid | 2.054 mmol, 212 mg | CS(=O)O | CH4O2S
reactant | N,N′-dimethyl-1,2-ethanediamine | 0.205 mmol, 18.10 mg | CNCCNC | C4H12N2
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 1-Isopropyl-3-methyl-6-(methylsulfonyl)-1H-indole-4-carboxylic acid | 118 mg, 25% | C(C)(C)N1C=C(C=2C(=CC(=CC12)S(=O)(=O)C)C(=O)O)C | C14H17NO4S
